US04868301
Methyl-3-bromomethyl-4-oxo-3-H-phthalazin-1-ylacetate
A solution of methyl-3-hydroxymethyl-4-oxo-phthalazin-1-ylacetate (0.49 g), phosphorous tribromide (0.54 g) and methylene chloride (10 ml) was stirred at room temperature for 2 hours. The solution was poured onto ice-water (5 ml) and the separated methylene chloride layer was collected, dried and evaporated to obtain a light yellow solid (yield: 0.43 g; m.p. 98°-104° C.).

reactant | methyl-3-hydroxymethyl-4-oxo-phthalazin-1-ylacetate | 0.49 g | COC(CC1=NN(C(C2=CC=CC=C12)=O)CO)=O | C12H12N2O4
reactant | phosphorous tribromide | 0.54 g | P(Br)(Br)Br | Br3P
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | Methyl-3-bromomethyl-4-oxo-3-H-phthalazin-1-ylacetate | COC(CC1=NN(C(C2=CC=CC=C12)=O)CBr)=O | C12H11BrN2O3
